US09428465B2
Step 2. Preparation of 5-(3-pyridyl)-1H-pyrimidine-2,4-dione
The title compound was obtained according to the procedure described for the synthesis of Example 14 (Step 3), starting from 1-benzhydryl-5-(3-pyridyl)pyrimidine-2,4-dione (0.085 g, 0.239 mmol). Herein, anisole (0.163 g, 1.5 mmol) was added together with the triflic acid/TFA mixture, and the orange reaction mixture was here stirred for 1 hr at 0° C. TFA was removed by a stream of nitrogen and remaining TFA removed by co-evaporating with diethyl ether (40 mL). Water (15 mL) and acetonitrile (15 mL) was added, solidified in a dry ice-acetone bath, and the crude title compound was obtained by lyophilization. The crude was purified by column chromatography using a Teledyne ISCO apparatus (Dichloromethane:20% methanol in dichloromethane 30:70) to afford the title compound as, a triflic salt (0.067 g, 81%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 7.91 (dd, J=6.2, 5.8 Hz, 1H), 8.07 (d, J=6.1 Hz, 1H), 8.60 (dt, J=8.2, 1.6 Hz, 1H), 8.72 (dd, J=5.4, 1.4 Hz, 1H), 9.06 (d, J=2.1 Hz, 1H), 11.55 (s, 1H), 11.58 (d, =5.5 Hz, 1H). MS (ESI) m/z: 190 [M-H]+.

reactant | 1-benzhydryl-5-(3-pyridyl)pyrimidine-2,4-dione | 0.239 mmol, 0.085 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(NC(C(=C1)C=1C=NC=CC1)=O)=O | C22H17N3O2
reactant | anisole | 1.5 mmol, 0.163 g | C1(=CC=CC=C1)OC | C7H8O
reactant | triflic acid TFA | OS(=O)(=O)C(F)(F)F.C(=O)(C(F)(F)F)O
product | 5-(3-pyridyl)-1H-pyrimidine-2,4-dione | N1=CC(=CC=C1)C=1C(NC(NC1)=O)=O | C9H7N3O2
